US09260375B2
Diisopropylamine (1.44 g, 14.3 mmol) was dissolved in anhydrous tetrahydrofuran (20 mL) under the atmosphere of argon, and a 1.54 M n-butyl lithium-hexane solution (8.8 mL, 13.6 mmol) was added with stirring under ice cooling. The mixture was stirred at 0° C. for 10 min, and then at −78° C. for 5 min. To the mixture, a solution of ethyl 3-phenylpropionate (2.14 g, 12.0 mmol) in anhydrous tetrahydrofuran (2 mL) was added at the same temperature over 6 min, and the reaction mixture was further stirred for 20 min. The cold solution of the enolate thus prepared above was added dropwise via a cannula into a solution of ethyl 2-oxo-4-phenylbutyrate (2.05 g, 10 mmol) in anhydrous tetrahydrofuran (10 mL) having been cooled to −78° C. After stirring at −78° C. for 1 h, the reaction mixture was adjusted to pH 4 with acetic acid, and the temperature was raised to room temperature. The reaction solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and water to separate the phases. The organic layer having been washed with brine was concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 10:1) to give diethyl 3-benzyl-2-phenethyl-2-hydroxysuccinate as oil in amounts of 806 mg (low polar diastereomer, yield: 21%) and 412 mg (high polar diastereomer, yield: 13%), respectively.

reactant | Diisopropylamine | 14.3 mmol, 1.44 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 3-phenylpropionate | 12.0 mmol, 2.14 g | C1(=CC=CC=C1)CCC(=O)OCC | C11H14O2
reactant | ethyl 2-oxo-4-phenylbutyrate | 10 mmol, 2.05 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | diethyl 3-benzyl-2-phenethyl-2-hydroxysuccinate | yield: 21% | C(C1=CC=CC=C1)C(C(C(=O)OCC)(O)CCC1=CC=CC=C1)C(=O)OCC | C23H28O5
